US07037925B2
4-(2-Ethylanilino)-6-methoxy-7-[4-(4-morpholinyl)butoxy]-3-quinolinecarboxamide
4-(2-Ethylanilino)-7-hydroxy-6-methoxy-3-quinolinecarboxamide (0.064 g, 0.19 mmol) was dissolved in DMSO (4 ml), 1-bromo-4-chlorobutane (22 μl, 0.19 mmol) and Cs2CO3 (0.18 g, 0.55 mmol) were added and the mixture was stirred at ambient temperature for three days. The mixture was poured into water and extracted with methylenechloride. The residue was chromatographed on silica using ethylacetate/methanol (1:0–>1:1) as eluent. The resulting oil was dissolved in DME, morpholine (25 μl, 0.29 mmol) and a catalytic ammount of KI was added, mixture was heated at reflux for four days. After cooling the mixture was poured out on water and extracted with methylenechloride. The crude product was purified on preparative HPLC, affording 20 mg (22% yield) of the titled compound.

reactant | 4-(2-Ethylanilino)-7-hydroxy-6-methoxy-3-quinolinecarboxamide | 0.19 mmol, 0.064 g | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)O)C(=O)N)C=CC=C1 | C19H19N3O3
reactant | 1-bromo-4-chlorobutane | 0.19 mmol, 22 μl | BrCCCCCl | C4H8BrCl
reactant | Cs2CO3 | 0.55 mmol, 0.18 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | morpholine | 0.29 mmol, 25 μl | N1CCOCC1 | C4H9NO
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(2-Ethylanilino)-6-methoxy-7-[4-(4-morpholinyl)butoxy]-3-quinolinecarboxamide | 20 mg, 22% yield | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OCCCCN2CCOCC2)C(=O)N)C=CC=C1 | C27H34N4O4
